US06281218B1
(4-methoxy-2 aminophenyl)carbamic acid ethyl ester
A solution of (4-methoxy-2-nitrophenyl)carbamic acid ethyl ester (7.3 g; 0.03 mol) in 95% EtOH (500 ml), was hydrogenated at room temperature and pressure in the presence of 10% aqueous HCl (13 ml) and 10% Pd/C (0.35 g). When the theoretical amount of hydrogen was taken up, the catalyst was filtered off and the solution was evaporated to dryness to give the title compound (5 g) after crystallization from Et2O/EtOH (85:15). The compound was used without further purification.

reactant | (4-methoxy-2-nitrophenyl)carbamic acid ethyl ester | 0.03 mol, 7.3 g | C(C)OC(NC1=C(C=C(C=C1)OC)[N+](=O)[O-])=O | C10H12N2O5
reactant | HCl | 13 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 500 ml | CCO | C2H6O
catalyst | Pd/C | 0.35 g | [Pd] | Pd
product | (4-methoxy-2 aminophenyl)carbamic acid ethyl ester | 5 g | C(C)OC(NC1=C(C=C(C=C1)OC)N)=O | C10H14N2O3
